Simulation of a switched-capacitor SAR ADC with Verilator and d_cosim

.subckt sar_adc input vref start valid d5 d4 d3 d2 d1 d0 clk

* A transmission gate connects the input to the capacitor set.

xsample input iin sample vref tgate
rin iin test_v 1k

* Capacitors and controlling inverters

xb5 test_v vref d5 ccap c=1p
xb4 test_v vref d4 ccap c={1p / 2}
xb3 test_v vref d3 ccap c={1p / 4}
xb2 test_v vref d2 ccap c={1p / 8}
xb1 test_v vref d1 ccap c={1p / 16}
xb0 test_v vref d0 ccap c={1p / 32}
clast test_v 0            {1p / 32}

* An XSPICE ADC bridge functions as a comparator.

acomp [%vd(test_v vref)] [comp] comparator
.model comparator adc_bridge in_low=0 in_high=0

* The digital portion of the circuit is specified in compiled Verilog.
* Outputs inverted to cancel the inverter in subcircuit ccap,
* and produce the correct numerical output value.

adut [ Clk Comp Start] [Sample Valid ~d5 ~d4 ~d3 ~d2 ~d1 ~d0] null dut
.model dut d_cosim simulation="./adc"
*.model dut d_cosim simulation="ivlng" sim_args=[ "adc" ]
.ends // SUBCKT sar_adc

* Some MOS transistors complete the circuit.
* Models from https://homepages.rpi.edu/~sawyes/AIMSPICE_TutorialManual.pdf

.model p1 pmos
+  level=2 vto=-0.5 kp=8.5e-6 gamma=0.4 phi=0.65 lambda=0.05 xj=0.5e-6
.model n1 nmos
+  level=2 vto=0.5 kp=24e-6 gamma=0.15 phi=0.65 lambda=0.015 xj=0.5e-6

* Use those for an inverter.

.subckt ainv in out vdd
mn out in 0 0 n1
mp out in vdd vdd p1
.ends

* A transmission gate modelled by a switch.

.subckt mos_tgate a b ctl vdd
mn a ctl b b n1
xinv ctl ictl vdd ainv
mp b ictl a a p1
.ends

.subckt tgate a b ctl vdd
switch a b ctl 0 tg
.model tg sw vt=1.5 ron=2k
.ends

* The per-bit subcircuit in the adc

.subckt ccap in vcc ctl c=10p
xinv ctl tail vcc ainv
cb in tail {c}
.ends

**** End of the ADC and its subcircuits.  Begin test circuit ****

.param vcc=3.3
vcc vcc 0 {vcc}

* Digital clock signal

aclock 0 clk clock
.model clock d_osc cntl_array=[-1 1] freq_array=[1Meg 1Meg]

* A simple DAC so that the result may be compared to the input.

r5 d5 sum 2
r4 d4 sum 4
r3 d3 sum 8
r2 d2 sum 16
r1 d1 sum 32
r0 d0 sum 64

vamm sum 0 0

* Pulse the Start signal high for 1.3uS each 10uS

Vpulse Start 0 PULSE 0 {vcc} 0.2u 10n 10n 1.3u 10u
Vtest input 0 PULSE 0 3 0 200u 200u 1u 401u

* The ADC for testing

xtest input vcc start valid d5 d4 d3 d2 d1 d0 clk sar_adc


.tran 100n 250u
.save input xtest.test_v vamm#branch clk start xtest.sample valid
.end
